US06521643B1
To a suspension of 2-(4-(4-methylpyridin-2-yl)-2-nitrobenzylidene)-propionitrile (221 mg) in ethanol (30 ml) was added tin (II) chloride dihydrate (1.25 g), and the mixture was refluxed for 30 minutes. Then to the solution was added hydrochloric acid (12N, 5 ml), and the mixture was refluxed for 6 hours. After cooling, the reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, 10% methanol in dichloromethane). The compound obtained was dissolved in ethyl acetate, and a solution of hydrogen chloride in 1,4-dioxane (4N, 1 ml) was added. The precipitate was collected by filtration and dried to give 2-amino-3-methyl-7-(4-methylpyridin-2-yl)quinoline dihydrochloride (57 mg).

reactant | 2-(4-(4-methylpyridin-2-yl)-2-nitrobenzylidene)-propionitrile | 221 mg | CC1=CC(=NC=C1)C1=CC(=C(C=C(C#N)C)C=C1)[N+](=O)[O-] | C16H13N3O2
reactant | tin (II) chloride dihydrate | 1.25 g | O.O.[Sn](Cl)Cl
reactant | hydrochloric acid | 12N, 5 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4N, 1 ml | O1CCOCC1 | C4H8O2
product | 2-amino-3-methyl-7-(4-methylpyridin-2-yl)quinoline dihydrochloride | 57 mg | Cl.Cl.NC1=NC2=CC(=CC=C2C=C1C)C1=NC=CC(=C1)C | InChI=1S/C16H15N3.2ClH/c1-10-5-6-18-14(7-10)13-4-3-12-8-11(2)16(17)19-15(12)9-13;;/h3-9H,1-2H3,(H2,17,19);2*1H
